US05059597
b) N-Allyl-N-(1,1-dimethoxyprop-2-yl)-urethane
131 g (0.686 mol) of N-(1,1-dimethoxyprop-2-yl)urethane are added dropwise to 25 g of sodium hydride (80% strength) in 700 ml of absolute toluene at 90° C. When the evolution of hydrogen has ended, 61.2 g (0.8 mol) of allyl chloride are added dropwise at 90° C. and the mixture is stirred overnight at 90° C. The sodium chloride which has precipitated out is dissolved with water, the organic phase is separated off, dried over K2CO3 and concentrated and the residue is distilled.

reactant | N-(1,1-dimethoxyprop-2-yl)urethane | 0.686 mol, 131 g | COC(C(C)NC(=O)OCC)OC | C8H17NO4
reactant | sodium hydride | 25 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | allyl chloride | 0.8 mol, 61.2 g | C(C=C)Cl | C3H5Cl
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | N-Allyl-N-(1,1-dimethoxyprop-2-yl)-urethane | C(C=C)N(C(=O)OCC)C(C(OC)OC)C | C11H21NO4
